US08071774B2
c) 1-(6-Methoxyspiro[1-benzofuran-3,3′-piperidin]-2′-yl)methanamine
A mixture of 1 mmol of 1′-benzyl-6-methoxyspiro[1-benzofuran-3,3′-piperidine]-2′-carbonitrile and 50 mg of Raney-Nickel (activated by washing with water till pH 7 and washing with ethanol) in 5 ml of ethanol is hydrogenated for 12 hours under 500 psi hydrogen. The reaction mixture is filtered over Hyflo and the filtrate is evaporated. From the residue the title compound is identified by means of flash chromatography (SiO2 60F) on the basis of the Rf value.

reactant | 1′-benzyl-6-methoxyspiro[1-benzofuran-3,3′-piperidine]-2′-carbonitrile | 1 mmol | C(C1=CC=CC=C1)N1C(C2(CCC1)COC1=C2C=CC(=C1)OC)C#N | C21H22N2O2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 5 ml | C(C)O | C2H6O
catalyst | Raney-Nickel | 50 mg, pH 7 | [Ni] | Ni
product | 1-(6-Methoxyspiro[1-benzofuran-3,3′-piperidin]-2′-yl)methanamine | COC1=CC2=C(C=C1)C1(C(NCCC1)CN)CO2 | C14H20N2O2
